US07094777B2
Step 2: 3-{[(2-Fluorophenyl)sulfonyl]methyl}azetidine hydrochloride
1-(Diphenylmethyl)-3-{[(2-fluorophenyl)sulfonyl]methyl}azetidine (1.33 g, 3.37 mmol) was dissolved in ethanol (80 mL). The solution was diluted with 2M hydrochloric acid (1.8 mL) and water (20 mL). 20% Palladium hydroxide on carbon (0.63 g) was added and the mixture shaken on a Parr apparatus under 50 psi of hydrogen for 3.5 h. The catalyst was removed by filtration and the filtrate concentrated to a small volume. The solid present was redissolved by adding ethanol and the solution filtered. The filtrate was concentrated to a small volume once again to give a crystalline solid which was collected under suction, washed with cold ethanol and dried in vacuo to afford the title compound as colourless crystals (0.81 g, 91%); 1H NMR (500 MHz, CD3OD) δ 3.34–3.42 (1H, m), 3.80 (2H, d, J=7.6 Hz), 4.07 (2H, t, J=10 Hz), 4.14 (2H, t, J=10 Hz), 7.41–7.49 (2H, m), 7.80–7.84 (1H, m), 7.90–7.92 (1H, m); 19F NMR (471 MHz, CD3OD) δ −110.6; m/z (ES+) 230 ([M+H]+, 100%).

reactant | 1-(Diphenylmethyl)-3-{[(2-fluorophenyl)sulfonyl]methyl}azetidine | 3.37 mmol, 1.33 g | C1(=CC=CC=C1)C(N1CC(C1)CS(=O)(=O)C1=C(C=CC=C1)F)C1=CC=CC=C1 | C23H22FNO2S
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 2M, 1.8 mL | Cl | ClH
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | Palladium hydroxide on carbon | 0.63 g | [OH-].[OH-].[Pd+2]
product | 3-{[(2-Fluorophenyl)sulfonyl]methyl}azetidine hydrochloride | 0.81 g, 91% | Cl.FC1=C(C=CC=C1)S(=O)(=O)CC1CNC1 | InChI=1S/C10H12FNO2S.ClH/c11-9-3-1-2-4-10(9)15(13,14)7-8-5-12-6-8;/h1-4,8,12H,5-7H2;1H
